US05409943
(b) N-[3-(3-Chloro-2-fluorobenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)thiourea
A mixture of 2-amino-3-(3-chloro-2-fluorobenzyloxy)pyridine (2.00 g, 0.0079 mol), 4chlorophenyl isothiocyanate (1.61 g, 0.0095 mol) and toluene (10 ml) was refluxed for 3 hours, then cooled and treated with diethyl ether to induce crystallisation of the product. Yield2.37 g (71%),m.p. 174°-176 ° C.

reactant | 2-amino-3-(3-chloro-2-fluorobenzyloxy)pyridine | 0.0079 mol, 2.00 g | NC1=NC=CC=C1OCC1=C(C(=CC=C1)Cl)F | C12H10ClFN2O
reactant | 4chlorophenyl isothiocyanate | 0.0095 mol, 1.61 g | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[3-(3-Chloro-2-fluorobenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)thiourea | ClC=1C(=C(COC=2C(=NC=CC2)NC(=S)NC2=CC=C(C=C2)Cl)C=CC1)F | C19H14Cl2FN3OS
